US06939885B2
Synthesis of N-[4-chloro-2-(pyrimidine-4-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-pyrimidin-4-yl-methanone and 122 mg of 4-oxazol-5-yl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 7.43 (s, 1H), 7.53 (dd, 1H, J=8.8 Hz, 2.4 Hz), 7.62 (m, 2H), 7.75 (m, 2H), 7.80 (m, 3H), 7.98 (s, 1H), 8.99 (d, 1H, J=5.2 Hz), 9.25 (b, 1H), 10.29 (b, 1H). MS: m/z 441.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-pyrimidin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=NC=C1 | C11H8ClN3O
reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | 122 mg | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
product | N-[4-chloro-2-(pyrimidine-4-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=CO1)C(=O)C1=NC=NC=C1 | C20H13ClN4O4S
